US05015286
Preparation of 7-Ethoxy-5-fluoromethyl-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
A solution containing 6.78 g (27.3 mmol) of N-trimethylsilyl-2,6-dichloro-3-methylaniline and 3.11 g (10.9 mmol) of 5-fluoromethyl-7-chloro-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonyl chloride in 25 ml of dry acetonitrile was prepared and 0.15 ml (2.2 mmol) of dimethyl sulfoxide was added with stirring at ambient temperature. The mixture was allowed to react for 4 days and the resulting brown solution was diluted with 150 ml of methylene chloride, washed with water and dried over magnesium sulfate. The solvent was removed by evaporation under reduced pressure and replaced with hexane to obtain, after collection of the solids and drying, 3.7 g (80 percent of theory) of the 7-chloro analog of the title compound in about 85 percent purity. A 1.85 g (4.36 mmol) portion of this was dissolved in 25 ml of dry ethanol and the solution cooled to 0°-5° C. and a mixture of 2.54 g (7.84 mmol) of 21 weight percent sodium ethoxide in ethanol and 7 ml of ethanol was added dropwise with stirring over a 15 min. period. The mixture was allowed to react for 10 min. and then about 1 ml of acetic acid was added and the combination poured into 50 ml of cold water. The solid that formed was collected, dried, extracted with ethanol, and redried to obtain 0.95 g (50 percent of theory) of the title compound as a solid melting at 197°-200° C. The proton and fluorine nmr spectra were compatible with the assigned structure.

reactant | N-trimethylsilyl-2,6-dichloro-3-methylaniline | 27.3 mmol, 6.78 g | C[Si](NC1=C(C(=CC=C1Cl)C)Cl)(C)C | C10H15Cl2NSi
reactant | 5-fluoromethyl-7-chloro-1,2,4-triazolo-[1,5-a]pyrimidine-2-sulfonyl chloride | 10.9 mmol, 3.11 g | FCC1=NC=2N(C(=C1)Cl)N=C(N2)S(=O)(=O)Cl | C6H3Cl2FN4O2S
reactant | dimethyl sulfoxide | 2.2 mmol, 0.15 ml | CS(=O)C | C2H6OS
reactant | acetic acid | about 1 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 7-Ethoxy-5-fluoromethyl-N-(2,6-dichloro-3-methylphenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | C(C)OC1=CC(=NC=2N1N=C(N2)S(=O)(=O)NC2=C(C(=CC=C2Cl)C)Cl)CF | C15H14Cl2FN5O3S
